US06884477B1
38.6 (259 mM) of 4-butylaniline, 80.5 g (875 mM) of glycerin, 25.0 g of m-nitrobenzenesulfonic acid, 7.6 g of ferric sulfate and 13.2 g of boric acid were placed in a 500 ml-three necked flask. To the mixture, 47.4 ml of conc. sulfuric acid was added dropwise over 20 minutes with stirring on an ice bath, whereby the temperature was increased from 8° C. to 50° C. The mixture was heat-refluxed at 135-145° C. for 2 hours under stirring. After the reaction, the reaction mixture was poured into ice water and alkalinized with 20% NaOH aqueous solution to pH=11, followed by extraction with toluene. The organic layer was washed with water and evaporated. The residue was purified by silica gel column chromatography (eluent: toluene/THF) to obtain 31.9 g of 6-butylquinoline (yield: 66.6%).

reactant | 4-butylaniline | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | m-nitrobenzenesulfonic acid | 25.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O | C6H5NO5S
reactant | boric acid | 13.2 g | B(O)(O)O | BH3O3
reactant | sulfuric acid | 47.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | glycerin | 875 mM, 80.5 g | OCC(O)CO | C3H8O3
product | 6-butylquinoline | 31.9 g, yield: 66.6% | C(CCC)C=1C=C2C=CC=NC2=CC1 | C13H15N
